US06509329B1
Synthesis of N,N′-bis[ [2-(3,4,5-Trimethoxyphenyl)pyridin-3-yl]methyl]homopiperazine
3-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (311 mg) and homopiperazine (53 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 3-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 311 mg | ClCC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | homopiperazine | 53 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[ [2-(3,4,5-Trimethoxyphenyl)pyridin-3-yl]methyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C1=NC=CC=C1CN1CCN(CCC1)CC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC | C35H42N4O6
